US04382081
A 2.61 g (0.01 mole) sample of (±)-N-[2-(acetylmercaptomethyl)-4-methyl-1-oxopentyl]glycine is slurried in 50 ml of CH2Cl2. Triethylamine (1.08 g, 0.01 mole) is added to give a solution which is cooled to -10° C. and treated with 1.08 g (0.01 mole) of ethyl chloroformate. After 1/2 hour, a solution of N,N-dimethylethylenediamine (0.88 g, 0.01 mole) in 10 ml of CH2Cl2 is added, and stirring from -5° C. to +25° C. continued for 2 hours. The mixture is evaporated and triturated with ethyl acetate. The triethylamine hydrochloride is filtered and the filtrates evaporated to an oil, 3.6 g. A 2.95 g sample of oil is dissolved with 1 equivalent of barbituric acid in methanol, filtered and evaporated to a foam. Addition of acetonitrile gives a white solid which is washed (briefly) with absolute ethanol and then acetonitrile. Recrystallization from 100 ml of acetonitrile gives a white powder, 1.3 g of (±)-N2 -[2-[(acetylthio)methyl]-4-methyl-1-oxopentyl]-N-[2-(dimethylamino)ethyl]glycinamide, barbituric acid (1:1) salt (34%), m.p. 151°-154°, which analyzes correctly for a salt with 1.0 mole of barbituric acid and 0.5 mole of water.

reactant | (±)-N-[2-(acetylmercaptomethyl)-4-methyl-1-oxopentyl]glycine | C(C)(=O)SCC(C(=O)NCC(=O)O)CC(C)C | C11H19NO4S
reactant | Triethylamine | 0.01 mole, 1.08 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.01 mole, 1.08 g | ClC(=O)OCC | C3H5ClO2
reactant | N,N-dimethylethylenediamine | 0.01 mole, 0.88 g | CN(CCN)C | C4H12N2
reactant | barbituric acid | 1 equivalent | N1C(=O)NC(=O)CC1=O | C4H4N2O3
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | (±)-N2 -[2-[(acetylthio)methyl]-4-methyl-1-oxopentyl]-N-[2-(dimethylamino)ethyl]glycinamide | 1.3 g | C(C)(=O)SCC(C(=O)NCC(=O)NCCN(C)C)CC(C)C | C15H29N3O3S
